US06552036B2
N,N-Diethyl-4-benzoylbenzamide
A solution of 25 g (110 mmol) 4-benzoylbenzoic acid [611-95-0] and 20 mL SOCl2 was allowed to reflux for 2 h then allowed to cool. The excess SOCl2 was evaporated off and the resulting clear oil was dissolved in 10 mL CH2Cl2 then slowly added to 12 mL (116 mmol) diethylamine in a mixture of 10 mL 3N NaOH and 50 mL CH2Cl2. The mixture was allowed to stir for 30 min then partitioned between H2O and CH2Cl2. The organic layer was washed with brine, dried over K2CO3, filtered and concentrated. The product precipitated from EtOAc/hexane to give 29.6 g (105 mmol) white crystals. MS m/z (MH+) 282.

reactant | 4-benzoylbenzoic acid | 110 mmol, 25 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)O)C=C1 | C14H10O3
reactant | SOCl2 | 20 mL | O=S(Cl)Cl | Cl2OS
reactant | diethylamine | 116 mmol, 12 mL | C(C)NCC | C4H11N
solvent | NaOH | 3N, 10 mL | [OH-].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N,N-Diethyl-4-benzoylbenzamide | 105 mmol, 29.6 g | C(C)N(C(C1=CC=C(C=C1)C(C1=CC=CC=C1)=O)=O)CC | C18H19NO2
